US07829578B1
Synthesis of 3-(6,6,6-trifluorohexyloxy)-6-hydroxyxanthone
To 3,6-dihydroxy-xanthone (0.58 g, 1 equivalent) is added 10 ml of ethanol, then 117 mg of KOH 0.8 equivalents), followed by 0.58 g of CF3(CH2)5Br (1 equivalent); after two hours of boiling this mixture, the pH had dropped to the acidic range, and another 100 mg of KOH was added and heating continued overnight. The cooled mixture was diluted with water (50 ml) and extracted with ethyl acetate (3×50 ml), the combined extracts washed with 5 ml of water and brought to dryness. Separation of the 3-component mixture was achieved by chromatography (100 g of silica gel, column diameter 5 cm) with solvents of increasing polarity: Solvents used: ethyl acetate (A), hexane (isomeric mixture) (B), ethanol (C)

reactant | 3,6-dihydroxy-xanthone | 0.58 g, 1 equivalent | OC=1C=CC=2C(C3=CC=C(C=C3OC2C1)O)=O | C13H8O4
reactant | ethanol | 10 ml | C(C)O | C2H6O
reactant | KOH | 117 mg, 0.8 equivalents | [OH-].[K+]
reactant | CF3(CH2)5Br | 0.58 g, 1 equivalent | C(F)(F)(F)CCCCCBr | C6H10BrF3
reactant | KOH | 100 mg | [OH-].[K+]
solvent | water | 50 ml | O | H2O
product | 3-(6,6,6-trifluorohexyloxy)-6-hydroxyxanthone | FC(CCCCCOC=1C=CC=2C(C3=CC=C(C=C3OC2C1)O)=O)(F)F | C19H17F3O4
